US07973051B2
iii) (4-Methyl-5-trimethylsilanylethynyl-thiazol-2-yl)-carbamic acid tert-butyl ester
Under a stream of Ar the above prepared (5-iodo-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.913 g, 2.68 mmol) was dissolved in 17 mL of acetonitrile and treated successively with triethylamine (1.12 mL, 3 eq.), Cul (0.051 g, 0.1 eq.), (Ph3P)2PdCl2 (0.188 g, 0.1 eq.), and ethynyltrimethylsilane (1.11 mL, 3 eq.). The flask was closed with a septum and allowed to stir for 4 h at 32° C. The reaction mixture was then poured onto icewater/NH4Cl, twofold extracted with ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/ethyl acetate=85/15) gave finally 0.592 g of the title compound as light brown foam.

reactant | (5-iodo-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 2.68 mmol, 0.913 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)I)=O | C9H13IN2O2S
reactant | triethylamine | 1.12 mL, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 1.11 mL, 3 eq. | C(#C)[Si](C)(C)C | C5H10Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | acetonitrile | 17 mL | C(C)#N | C2H3N
catalyst | (Ph3P)2PdCl2 | 0.188 g, 0.1 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-Methyl-5-trimethylsilanylethynyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.592 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)C#C[Si](C)(C)C)=O | C14H22N2O2SSi
